US05521316
reacting thionyl chloride with 3-hydroxymethyl pyridinium hydrochloride to form 3-chloromethyl pyridinium hydrochloride, at least a portion of which forms as a solid in the reaction mixture.

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 3-hydroxymethyl pyridinium hydrochloride | Cl.OCC=1C=[NH+]C=CC1
product | 3-chloromethyl pyridinium hydrochloride | Cl.ClCC=1C=[NH+]C=CC1 | InChI=1S/C6H6ClN.ClH/c7-4-6-2-1-3-8-5-6;/h1-3,5H,4H2;1H/p+1
